US04432972
A solution of N-[N-[(phenylmethoxy)(6-phthalimidohexyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester in dioxane is treated with hydrazine hydrate and stirred at room temperature under argon. After 24 hours, the mixture is diluted with toluene and the solvents decanted and evaporated to dryness. The residue is purified by extraction and flash chromatography to give N-[(phenylmethoxy)[(6-aminohexyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester.

reactant | N-[N-[(phenylmethoxy)(6-phthalimidohexyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester | C1(=CC=CC=C1)COP(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)CCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C43H50N3O7P
reactant | hydrazine hydrate | O.NN
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[(phenylmethoxy)[(6-aminohexyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester | C1(=CC=CC=C1)CON([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)P(=O)CCCCCCN | C35H48N3O5P
